US05935952
In 60 ml of methanol was suspended 14.2 g of stannous chloride, and to this suspension was dropwise added a solution of 10.0 g of ethyl 4-azido-2,5-difluoro-3-methylbenzoate in 20 ml of methanol at room temperature over one hour, after which the resulting mixture was stirred at the same temperature for 30 minutes. The methanol was removed by distillation under reduced pressure, and to the residue obtained were added 300 ml of diethyl ether and 100 ml of water, after which the pH was adjusted to 12.5 with 2N aqueous sodium hydroxide solution. The organic layer formed was separated, washed with water and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure to obtain 8.91 g of yellow, oily ethyl 4-amino-2,5-difluoro-3-methylbenzoate.

reactant | ethyl 4-azido-2,5-difluoro-3-methylbenzoate | 10.0 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC)C=C1F)F)C | C10H9F2N3O2
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | ethyl 4-amino-2,5-difluoro-3-methylbenzoate | NC1=C(C(=C(C(=O)OCC)C=C1F)F)C | C10H11F2NO2
